US05977178
{(1R)-1-{N-Methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-carbamoyl}-2-(2-naphthyl)ethyl}carbamic acid tertbutyl ester (2.4 g, 4.2 mmol) was dissolved in a mixture of trifluoroacetic acid (40 mL) and dichloromethane (40 mL) at 20° C. After 10 min the reaction mixture was concentrated in vacuo and coevaporated from dichloromethane (80 mL). The residue was crystallised from ethyl acetate to give 1.19 g of (2R)-2-amino-N-methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)-ethyl]-3-(2-naphthyl)propionamide, trifluoroacetic acid.

reactant | {(1R)-1-{N-Methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-carbamoyl}-2-(2-naphthyl)ethyl}carbamic acid tertbutyl ester | 4.2 mmol, 2.4 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)=O)=O | C34H36N4O4
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (2R)-2-amino-N-methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-naphthyl)-ethyl]-3-(2-naphthyl)propionamide | 1.19 g | N[C@@H](C(=O)N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)CC1=CC2=CC=CC=C2C=C1 | C29H28N4O2
